resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.995742
R2 0 n2 1.005824
R3 0 n4 0.019104
R4 n1 n3 1.003028
R5 n1 n5 1.019334
R6 n2 n3 1.011843
R7 n2 n6 1.015848
R8 n3 n7 0.992271
R9 n4 n5 1.017745
R10 n4 n6 0.995506
R11 n5 n7 1.015079
R12 n6 n7 1.015424
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
